US06559145B2
Diethyl 2-(((4-Chlorobenzyl)amino)carbonyl)malonate.
Triethyl methanetricarboxylate (2.32 g) and 4-chlorobenzylamine (1.42 g) are stirred at room temperature for 16 h. Insoluble material is filtered off and the filtrate is purified by column chromatography (hexanes/acetone, 5/1) to give 1 g (12%) of the title compound as an oil which slowly solidifies. Physical characteristics: MS (ESI+) m/z 330 (M+H)+. 1H NMR (CDCl3) δ 7.70, 7.31, 7.26, 4.48,4.38, 4.28, 1.30.

reactant | Triethyl methanetricarboxylate | 2.32 g | C(C(=O)OCC)(C(=O)OCC)C(=O)OCC | C10H16O6
reactant | 4-chlorobenzylamine | 1.42 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | Diethyl 2-(((4-Chlorobenzyl)amino)carbonyl)malonate | 1 g, 12% | ClC1=CC=C(CNC(=O)C(C(=O)OCC)C(=O)OCC)C=C1 | C15H18ClNO5
